US08808703B2
Step 3: diethyl 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethylphosphonate
To a solution of diethyl 2-(2-(2-(2-iodoethoxy)ethoxy)ethoxy)ethylphosphonate (1 eq) in DMF (0.5 M) was added sodium azide (3 eq). The reaction mixture was heated at 50° C. overnight. The mixture was then concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-5% MeOH/DCM to give the product as a colorless oil.

reactant | diethyl 2-(2-(2-(2-iodoethoxy)ethoxy)ethoxy)ethylphosphonate | 1 eq | ICCOCCOCCOCCP(OCC)(OCC)=O | C12H26IO6P
reactant | sodium azide | 3 eq | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 0.5 M | CN(C)C=O | C3H7NO
product | diethyl 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethylphosphonate | N(=[N+]=[N-])CCOCCOCCOCCP(OCC)(OCC)=O | C12H26N3O6P
